US06284764B1
2-(tert-Butyl-dimethyl-silanyloxymethyl)-tetrahydro-pyran4-one:
A solution of 2-(tert-butyl-dimethyl-silanyloxymethyl)-tetrahydro-pyran-4-ol (2.27 g, 9.21 mmol) in anhydrous DMSO/Et3N (15/13 mL) was treated with sulfur trioxide pyridine complex (7.33 g, 46.1 mmol) portionwise at room temperature. After stirring for 1 hour, the reaction was concentrated and the residue was partitioned between EtOAc (100 mL) and water (50 ml). The separated organic layer was washed with brine (70 mL), dried over sodium sulfate, and concentrated. Purification by silica gel column using 10-20% of EtOAc in hexane afforded 1.48 g (66%) of colorless oil: 1H NMR (CDCl3) δ 0.05 (s, 6H), 0.88 (s, 9H), 2.32 (dt, 1H), 2.41 (m, 2H), 2.58 (m, 1H), 3.62 (m, 2H), 3.70 (d, 2H), 4.31 (m, 1H).

reactant | 2-(tert-butyl-dimethyl-silanyloxymethyl)-tetrahydro-pyran-4-ol | 9.21 mmol, 2.27 g | C(C)(C)(C)[SiH2]OC(C1OCCC(C1)O)(C)C | C12H26O3Si
solvent | DMSO Et3N | 13 mL | CS(=O)C.CCN(CC)CC
product | 2-(tert-Butyl-dimethyl-silanyloxymethyl)-tetrahydro-pyran4-one | 1.48 g, 66% | C(C)(C)(C)[SiH2]OC(C1OCCC(C1)=O)(C)C | C12H24O3Si
